US08835472B2
2-Ethynyl-5-isopropoxypyridine
To 1.00 g (6.05 mmol) 5-isopropoxypicolinaldehyde in 20 mL methanol are added 1.67 g (12.1 mmol) K2CO3 followed by 1.4 g (7.26 mmol) dimethyl 1-diazo-2-oxopropylphosphonate. After stirring at r.t. over the weekend the reaction mixture is diluted with EtOAc and washed consecutively with NaHCO3 solution and water. The organic layer is dried with Na2SO4 and the solvent is removed in vacuo.

reactant | 5-isopropoxypicolinaldehyde | 6.05 mmol, 1.00 g | C(C)(C)OC=1C=CC(=NC1)C=O | C9H11NO2
reactant | K2CO3 | 12.1 mmol, 1.67 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethyl 1-diazo-2-oxopropylphosphonate | 7.26 mmol, 1.4 g | [N+](=[N-])=C(C(C)=O)P(OC)(OC)=O | C5H9N2O4P
solvent | methanol | 20 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Ethynyl-5-isopropoxypyridine | C(#C)C1=NC=C(C=C1)OC(C)C | C10H11NO
